US07253165B2
Synthesis of [3-(4-benzo[b]thiophen-3-yl-phenoxy)-propyl]-(2-chloro-benzyl)-amine (Scheme III, Compound 1b)
Combine 3-[4-(3-bromo-propoxy)-phenyl]-benzo[b]thiophene (0.200 g, 0.576 mmol), 2-chlorobenzylamine (0.326 g, 2.30 mmol), potassium carbonate (0.200 g, 1.45 mmol) and acetonitrile (4.0 ml) and heat (75° C.) overnight. Cool reaction to room temperature, filter through a Waters Sep-Pak 1 g Silica cartridge (ethyl acetate) and concentrate (in vacuo). Purify the crude product by column (silica) chromatography with a graded solvent mixture of 40% ethyl acetate in dichloromethane to 100% ethyl acetate. Concentrate the appropriate fractions, dissolve in dichloromethane and re-evaporate under a stream of nitrogen. Dry sample under vacuum (0.5 mm Hg, 50° C.) overnight to obtain the title compound as a light amber oil (0.184 g, 78% Yield). Purity by LC/MS=98%, [M+H]+=408.

reactant | 3-[4-(3-bromo-propoxy)-phenyl]-benzo[b]thiophene | 0.576 mmol, 0.200 g | BrCCCOC1=CC=C(C=C1)C=1C2=C(SC1)C=CC=C2 | C17H15BrOS
reactant | 2-chlorobenzylamine | 2.30 mmol, 0.326 g | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | potassium carbonate | 1.45 mmol, 0.200 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 4.0 ml | C(C)#N | C2H3N
product | [3-(4-benzo[b]thiophen-3-yl-phenoxy)-propyl]-(2-chloro-benzyl)-amine | 0.184 g, 78% Yield | S1C2=C(C(=C1)C1=CC=C(OCCCNCC3=C(C=CC=C3)Cl)C=C1)C=CC=C2 | C24H22ClNOS
